US08022223B2
Following the procedure in Example 7, step E using 1-(5-bromo-3-phenoxypyridin-2-yl)thiourea and tert-butyl 4-(2-bromoacetyl)piperidine-1-carboxylate provided tert-butyl 4-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate.

reactant | 1-(5-bromo-3-phenoxypyridin-2-yl)thiourea | BrC=1C=C(C(=NC1)NC(=S)N)OC1=CC=CC=C1 | C12H10BrN3OS
reactant | tert-butyl 4-(2-bromoacetyl)piperidine-1-carboxylate | BrCC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H20BrNO3
product | tert-butyl 4-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate | BrC=1C=C(C(=NC1)NC=1SC=C(N1)C1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC=CC=C1 | C24H27BrN4O3S
